US04525360
3-(4'-Fluorophenyl)-3-hydroxy-6-methyl-1-(4-pyridyl)indane
4-Bromofluorobenzene (87.5 g) dissolved in 1000 ml of dry ether was cooled to -20° C. and kept under dry N2.N-butyllithium (0.5 moles 15% W/V in n-hexane) was added during 1 hour while the temperature was kept below 0° C. The reaction mixture was stirred for another 1/2 h and further cooled to -30° C. 5-Methyl-3-pyridylindanone (75 g) (prepared according to the standard methods--J. Med. Chem., 11, (1968), 1064-1066) dissoled in dry ether (500 ml) was added dropwise at such a rate as to keep the temperature below -10° C. Subsequently the temperature was slowly raised to room temperature and the mixture poured into NH4Cl(100 g) in H2O (3 liters). The organic phase was separated and washed with brine, dried (MgSO4), and the solvents evaporated. Upon addition of ether (200 ml) the title compound precipitated and was filtered off. Yield: 55 g (52%). MP: 187°-192° C.

reactant | 4-Bromofluorobenzene | 87.5 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | N-butyllithium | 0.5 moles | [Li+].CCC[CH2-]
reactant | 5-Methyl-3-pyridylindanone | 75 g | CC=1C=C(C=NC1)C1C(C2=CC=CC=C2C1)=O | C15H13NO
reactant | NH4Cl | 100 g | [NH4+].[Cl-]
reactant | ether | 1000 ml | CCOCC | C4H10O
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | H2O | 3 liters | O | H2O
product | 3-(4'-Fluorophenyl)-3-hydroxy-6-methyl-1-(4-pyridyl)indane | FC1=CC=C(C=C1)C1(CC(C2=CC(=CC=C12)C)C1=CC=NC=C1)O | C21H18FNO
